US04367234
3-Chloro-5-fluoro-2-hydroxybenzaldehyde
Sodium hydroxide (50 g.) was dissolved in 70 ml. of water. 2-Chloro-4-fluorophenol (10 g., 0.068 mole) was added and then chloroform (30 ml.) The mixture was refluxed for two hours. Addition of chloroform (30 ml.) and reflux for 2 hours was twice repeated. The reaction mixture was cooled to room temperature and crude product recovered as the sodium salt by filtration. The crude was taken into water and acidified with 1 N hydrochloric acid to yield product (6.6 g.) in the free phenolic form. The latter was chromatographed on 200 g. of silica gel, with 1:1 methylene chloride: hexane as eluant. The column was monitored by tlc. Clean product containing fractions were combined and evaporated to dryness to yield purified 3-chloro-5-fluoro-2-hydroxybenzaldehyde [3.08 g.; m.p. 81°-83° C., Rf 0.49 (1:1 methylene chloride: hexane); ir (CH2Cl2)1658, 1460, 1439, 1289, 1230, 1116 cm-1 ].

reactant | Sodium hydroxide | 50 g | [OH-].[Na+]
reactant | water | O | H2O
reactant | 2-Chloro-4-fluorophenol | 0.068 mole, 10 g | ClC1=C(C=CC(=C1)F)O | C6H4ClFO
reactant | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Chloro-5-fluoro-2-hydroxybenzaldehyde | ClC=1C(=C(C=O)C=C(C1)F)O | C7H4ClFO2
